US07888347B2
1,1-Dimethylethyl 3-oxo-2-[1-(phenylmethyl)-4-piperidinyl]-3,3a,4,5,7,8-hexahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (D47)
A mixture of 4-hydrazino-1-(phenylmethyl)piperidine dihydrochloride (commercially available from e.g. Aurora Screening Library) (2.68 g, 9.63 mmol) and tert-butanol (60 ml) was added to 1-(1,1-dimethylethyl) 4-ethyl 5-oxohexahydro-1H-azepine-1,4-dicarboxylate (may be prepared as described in Synthetic Communications (1992), 22(9), 1249-58) (2.50 g, 8.76 mmol) followed by triethylamine (7.33 ml, 52.59 mmol) and the resulting suspension warmed to reflux over ˜10 min under Argon. The resulting clear yellow solution was then kept at this temperature for 65 h. The mixture was then allowed to cool to room temperature over ˜2 h and the mixture reduced under vacuum to give a cream coloured solid residue. Purification by chromatography on silica gel eluting with dichloromethane:methanol 50:1→25:1→10:1 afforded a product which as partitioned between water and dichloromethane (100 ml each) the layers separated and the organic layer washed with more water (100 ml), followed by brine (100 ml) and then dried (Na2SO4), filtered and reduced to give the title compound (D47). MS (ES+) m/e 427 [M+H]+.

reactant | 4-hydrazino-1-(phenylmethyl)piperidine dihydrochloride | Cl.Cl.N(N)C1CCN(CC1)CC1=CC=CC=C1
reactant | 1-(1,1-dimethylethyl) 4-ethyl 5-oxohexahydro-1H-azepine-1,4-dicarboxylate | 8.76 mmol, 2.50 g | O=C1C(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C14H23NO5
reactant | triethylamine | 52.59 mmol, 7.33 ml | C(C)N(CC)CC | C6H15N
solvent | tert-butanol | 60 ml | C(C)(C)(C)O | C4H10O
product | 1,1-Dimethylethyl 3-oxo-2-[1-(phenylmethyl)-4-piperidinyl]-3,3a,4,5,7,8-hexahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | O=C1N(N=C2CCN(CCC21)C(=O)OC(C)(C)C)C2CCN(CC2)CC2=CC=CC=C2 | C24H34N4O3
